US04618677
The procedure described in Example 2 was followed, using 1.0 g of n-hexyl isocyanate, 2.6 g of 3-{4-[4-(4-chlorophenyl)butyl]piperazin-1-yl}propanethiol and 25 ml of methylene chloride, to give 1.4 g (32% of theory) of N-(n-hexyl)-S-{3-[4-[4-(4-chlorophenyl)butyl]piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 235°-245° C. (dec.).

reactant | n-hexyl isocyanate | 1.0 g | C(CCCCC)N=C=O | C7H13NO
reactant | 3-{4-[4-(4-chlorophenyl)butyl]piperazin-1-yl}propanethiol | 2.6 g | ClC1=CC=C(C=C1)CCCCN1CCN(CC1)CCCS | C17H27ClN2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(n-hexyl)-S-{3-[4-[4-(4-chlorophenyl)butyl]piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.4 g, 32% | Cl.Cl.C(CCCCC)NC(O)=SCCCN1CCN(CC1)CCCCC1=CC=C(C=C1)Cl | InChI=1S/C24H42ClN3OS.2ClH/c1-2-3-4-6-14-26-24(29)30-21-8-16-28-19-17-27(18-20-28)15-7-5-9-22-10-12-23(25)13-11-22;;/h10-13,26,29-30H,2-9,14-21H2,1H3;2*1H
